US05576324
5-Methyl-2,3,6,7-tetrahydro-2-vinylfuro[2,3-f]quinoline-7-one (2.17 g) was suspended in tetrahydrofuran (40 ml). 9-Borabicyclo[3.3.1]nonan (0.5 mol, tetrahydrofuran solution, 80 ml) was added thereto while cooling on ice, and the mixture was stirred for 5.5 hours. Subsequently, aqueous 3N-NaOH solution (20 ml) and aqueous 35% hydrogen peroxide (20 ml) were added to the mixture in this order, and the temperature was raised to room temperature. After stirring for 30 minutes, extraction was performed with a solvent mixture of chloroform-methanol (4:1). The organic phase was dried and condensed under reduced pressure. The residue was recrystallized from a solvent mixture of chloroform-ethyl acetate-ether to obtain 1.7 g of 2-(2-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one as pale yellow powdery crystals (72.6%).

reactant | 5-Methyl-2,3,6,7-tetrahydro-2-vinylfuro[2,3-f]quinoline-7-one | 2.17 g | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)C=C | C14H13NO2
reactant | 9-Borabicyclo[3.3.1]nonan | 0.5 mol, 80 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 20 ml | OO | H2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(2-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 1.7 g, 72.6% | OCCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C14H15NO3
